US07417060B2
In a reaction vessel were added tert-butyl [(2R)-2-hydroxy-2-phenylethyl][2-(4-iodophenoxy)ethyl]carbamate (200 mg), [3-isopropoxy-4-[[(methylsulfonyl)amino]carbonyl]-phenyl]boronic acid (150 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1, 33.8 mg), toluene (3.2 ml), ethanol (0.8 ml), and 2N sodium carbonate solution (0.66 ml). The vessel was placed in a microwave and irradiation was adjusted to keep the temperature 100° C. and the reaction was performed for 2 hours. After cooling to room temperature, the mixture was quenched by the addition of 1N hydrochloric acid (1.32 ml) and partitioned between ethyl acetate (20 ml) and water (20 ml). The organic layer was separated, washed with brine (20 ml), and dried over magnesium sulfate. Filtration followed by evaporation gave a brown foam which was chromatographed on silica gel (eluent: hexane/ethyl acetate) to give tert-butyl [(2R)-2-hydroxy-2-phenylethyl]-[2-[[3′-isopropoxy-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]oxy]ethyl]carbamate (20.4 mg) as a pale yellow solid.

reactant | tert-butyl [(2R)-2-hydroxy-2-phenylethyl][2-(4-iodophenoxy)ethyl]carbamate | 200 mg | O[C@@H](CN(C(OC(C)(C)C)=O)CCOC1=CC=C(C=C1)I)C1=CC=CC=C1 | C21H26INO4
reactant | [3-isopropoxy-4-[[(methylsulfonyl)amino]carbonyl]-phenyl]boronic acid | 150 mg | C(C)(C)OC=1C=C(C=CC1C(=O)NS(=O)(=O)C)B(O)O | C11H16BNO6S
reactant | dichloromethane | 33.8 mg | ClCCl | CH2Cl2
reactant | sodium carbonate | 2N, 0.66 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
solvent | toluene | 3.2 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl [(2R)-2-hydroxy-2-phenylethyl]-[2-[[3′-isopropoxy-4′-[[(methylsulfonyl)amino]carbonyl]-4-biphenylyl]oxy]ethyl]carbamate | 20.4 mg | O[C@@H](CN(C(OC(C)(C)C)=O)CCOC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)OC(C)C)C1=CC=CC=C1 | C32H40N2O8S
